US08349893B2
To a solution of 10-(2-fluoro-phenyl)-dec-9-enoic acid ethyl ester (420 mg, 1.44 mmol) in tetrahydrofuran (2 mL) was added 2 M aq. lithium hydroxide solution (2 mL, 4 mmol). The reaction mixture was stirred at room temperature for 16 h, then partitioned between 1 M aq. hydrochloric acid solution and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and evaporated, to afford 10-(2-fluoro-phenyl)-dec-9-enoic acid (250 mg, 66%).

reactant | 10-(2-fluoro-phenyl)-dec-9-enoic acid ethyl ester | 1.44 mmol, 420 mg | C(C)OC(CCCCCCCC=CC1=C(C=CC=C1)F)=O | C18H25FO2
reactant | lithium hydroxide | 4 mmol, 2 M, 2 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 10-(2-fluoro-phenyl)-dec-9-enoic acid | 250 mg, 66% | FC1=C(C=CC=C1)C=CCCCCCCCC(=O)O | C16H21FO2
